US05332750
A solution of 2.82 g of trifluoromethanesulfonic anhydride in 10 ml of CH2Cl2 is added dropwise to a solution of 3.32 g of 1-(2'-aminobiphenyl-4-ylmethyl)-6-butyl-1,2-dihydro-2-oxopyridine and 1.01 g of triethylamine in 30 ml of CH2Cl2 at -50° to -60°. The mixture is left to warm up to 20° and poured into dilute acetic acid to give 6-butyl-1-(2'-trifluoromethanesulfonamidobiphenyl-4-ylmethyl)-1,2-dihydro-2-oxopyridine after conventional working-up.

reactant | trifluoromethanesulfonic anhydride | 2.82 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-(2'-aminobiphenyl-4-ylmethyl)-6-butyl-1,2-dihydro-2-oxopyridine | 3.32 g | NC1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(C=CC=C1CCCC)=O | C22H24N2O
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 6-butyl-1-(2'-trifluoromethanesulfonamidobiphenyl-4-ylmethyl)-1,2-dihydro-2-oxopyridine | C(CCC)C1=CC=CC(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C(F)(F)F)=O | C23H23F3N2O3S
